US08604061B2
To a stirred 2 M LiBH4 solution (16.22 ml) at r.t. in THF under an argon atmosphere was added chlorotrimethylsilane (5.47 ml) over 2 min. The white suspension was cooled to 0° C. and (RS)-(2-amino-2-(2,4-difluoro-phenyl)-propionic acid hydrochloride (2.57 g) was added portionwise over 5 min. The ice bath was removed and the compact off-white suspension was stirred at r.t. for 20 h. The mixture was cooled again to 0° C. and treated carefully with methanol (15 ml). The mixture was stirred at r.t. for 30 min, filtered and the cake was washed with MeOH. The filtrate was concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give (RS)-2-amino-2-(2,4-difluoro-phenyl)-propan-1-ol (1.47 g, 73%) as colorless viscous oil.

reactant | LiBH4 | 2 M, 16.22 ml | [Li+].[BH4-]
reactant | chlorotrimethylsilane | 5.47 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-amino-2-(2,4-difluoro-phenyl)-propionic acid hydrochloride | 2.57 g | Cl.NC(C(=O)O)(C)C1=C(C=C(C=C1)F)F
solvent | THF | C1CCOC1 | C4H8O
product | (RS)-2-amino-2-(2,4-difluoro-phenyl)-propan-1-ol | 1.47 g, 73% | NC(CO)(C)C1=C(C=C(C=C1)F)F | C9H11F2NO
